US04963590
N-Isopropyl-2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylamide
The procedure described in Example 99 was repeated using 1.83 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 1.3 g of N-isopropylcyanoacetamide. Yield 1.46 g (50%), m.p. 243°-245° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 1.83 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | N-isopropylcyanoacetamide | 1.3 g | C(C)(C)NC(CC#N)=O | C6H10N2O
product | N-Isopropyl-2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylamide | C(C)(C)NC(C(=CC1=CC(=C(C(=C1)[N+](=O)[O-])O)O)C#N)=O | C13H13N3O5
